US06262083B1
10 g (44.2 mmol) of methyl(4aS,7aS)-1-hydroxy-7-hydroxymethyl-1,4a,5,7a-tetra hydrocyclopenta[c]pyrane-4-carboxylate was dissolved with 600 ml of methylene chloride, and 19.06 g (88.4 mmol) of pyridiniumchlorocromate was added, and stirred for 2 hours. After filtering the reaction mixture, the filtered solution was concentrated and purified by using column chromatography (hexane/ethylacetate=3/1, v/v), and 8.78 g of methyl(4aS,7aS)-7-formyl-1-hydroxy-1,4a,5,7a-tetra hydrocyclopenta[c]pyrane-4-carboxylate was obtained (yield: 89%).

reactant | methyl(4aS,7aS)-1-hydroxy-7-hydroxymethyl-1,4a,5,7a-tetra hydrocyclopenta[c]pyrane-4-carboxylate | 44.2 mmol, 10 g | OC1OC=C([C@@H]2[C@H]1C(=CC2)CO)C(=O)OC | C11H14O5
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
product | methyl(4aS,7aS)-7-formyl-1-hydroxy-1,4a,5,7a-tetra hydrocyclopenta[c]pyrane-4-carboxylate | 8.78 g, yield: 89% | C(=O)C1=CC[C@H]2[C@@H]1C(OC=C2C(=O)OC)O | C11H12O5
